US09216998B2
The 7-hydroxy-N-isopropyl-6-phenethyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide (9 mg, 0.021 mmol) was further processed with SOCl2 and pyridine as described in Example 1, above to yield N-isopropyl-6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide (8 mg).

reactant | 7-hydroxy-N-isopropyl-6-phenethyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide | 0.021 mmol, 9 mg | OC1(C=2C=CN3C2C(=CC1CCC1=CC=CC=C1)CNC(C3)C(=O)NC(C)C)C(F)(F)F | C24H28F3N3O2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-isopropyl-6-phenethyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide | 8 mg | C(C)(C)NC(=O)C1CN2C=CC3=C(C(=CC(=C23)CN1)CCC1=CC=CC=C1)C(F)(F)F | C24H26F3N3O
